US07101898B2
4-[(E)-3-Oxo-3-((S)-2-((piperidin-1-yl)methyl)pyrrolidin-1-yl)propenyl]benzonitrile
150 mg of the title compound were synthesized as described for (E)-3-(4-bromophenyl)-1-((S)-2-((pyrrolidin-1-yl)methyl)pyrrolidin-1-yl)propenone, using (E)-4-cyanocinnamic acid instead of (E)-4-bromocinnamic acid and 1-(((S)-pyrrolidin-2-yl)methyl)piperidine instead of (S)-2-((pyrrolidin-1-yl)methyl)pyrrolidine.

reactant | (E)-4-cyanocinnamic acid | C(#N)C1=CC=C(/C=C/C(=O)O)C=C1 | C10H7NO2
reactant | 1-(((S)-pyrrolidin-2-yl)methyl)piperidine | N1[C@@H](CCC1)CN1CCCCC1 | C10H20N2
product | 4-[(E)-3-Oxo-3-((S)-2-((piperidin-1-yl)methyl)pyrrolidin-1-yl)propenyl]benzonitrile | 150 mg | O=C(/C=C/C1=CC=C(C#N)C=C1)N1[C@@H](CCC1)CN1CCCCC1 | C20H25N3O
